US07087750B2
4-(1-Piperazinyl)-1-(3-pyridinylsulfonyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 3-pyridinylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.37 (br, 1 H), 9.18 (d, J=3 Hz, 1 H), 8.86 (d, J=5 Hz, 1 H), 8.39 (d, J=8 Hz, 1 H), 7.85 (d, J=3 Hz, 1 H), 7.70–7.60 (m, 2 H), 7.27 (t, J=8 Hz, 1 H), 7.00 (d, J=3 Hz, 1 H), 6.82 (d, J=8 Hz, 1 H), 3.24 (m, 8 H); MS (ESI+) for m/z 343 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 3-pyridinylsulfonyl chloride | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | 4-(1-Piperazinyl)-1-(3-pyridinylsulfonyl)-1H-indole hydrochloride | Cl.N1(CCNCC1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C17H18N4O2S.ClH/c22-24(23,14-3-2-7-19-13-14)21-10-6-15-16(4-1-5-17(15)21)20-11-8-18-9-12-20;/h1-7,10,13,18H,8-9,11-12H2;1H
